US05334709
The 2,4-dichloro-6-methoxy-s-triazine obtained according to Example A-3 is suspended, with partial solution, in 1000 parts by volume of acetone, 110 parts of thiophenol and 90 parts of sodium bicarbonate are added, and the reaction is carried out at about 20° C. After about 2 hours, the synthesis mixture is evaporated. The compound 2-chloro-4-methoxy-6-phenylthio-s-triazine is obtained as a powder containing electrolyte salt. It serves as a monochloro-triazine starting compound for the synthesis of dyestuffs according to the invention.

reactant | 2,4-dichloro-6-methoxy-s-triazine | ClC1=NC(=NC(=N1)Cl)OC | C4H3Cl2N3O
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-chloro-4-methoxy-6-phenylthio-s-triazine | ClC1=NC(=NC(=N1)OC)SC1=CC=CC=C1 | C10H8ClN3OS
